US07893056B2
(cis)-3,4-Pyrrolidinediyldimethanol (970 mg, 7.4 mmol) was dissolved in a mixture of MeOH (20 mL) and water (7 mL) and cooled to 0° C. Na2CO3 (1.96 g, 19 mmol) was added followed by benzyl chloroformate (1.15 mL, 8.1 mmol) and the resulting solution was stirred for 4 hours, maintaining the temperature at 0° C. The reaction was concentrated under reduced pressure to remove most of the methanol, and the remaining aqueous solution was extracted twice with EtOAc. The combined organics were washed with brine and dried over sodium sulfate before being concentrated in vacuo. RP-HPLC yielded phenylmethyl (cis)-3,4-bis(hydroxymethyl)-1-pyrrolidinecarboxylate (450 mg, 22%, 1.7 mmol). LCMS: (M+H)+: 266.1.

reactant | (cis)-3,4-Pyrrolidinediyldimethanol | 7.4 mmol, 970 mg | N1C[C@H]([C@H](C1)CO)CO | C6H13NO2
reactant | Na2CO3 | 19 mmol, 1.96 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl chloroformate | 8.1 mmol, 1.15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 7 mL | O | H2O
product | phenylmethyl (cis)-3,4-bis(hydroxymethyl)-1-pyrrolidinecarboxylate | 1.7 mmol, 450 mg, 22% | OC[C@@H]1CN(C[C@@H]1CO)C(=O)OCC1=CC=CC=C1 | C14H19NO4
